US08486937B2
N-[(3S)-1-Azabicyclo[2.2.2]oct-3-yl]-6-{[2-(propylamino)ethyl]amino}-1,2-benzisothiazole-3-carboxamide hydroformate
Palladium (II) acetate (0.09 mmol) was added to a solution of (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.14 mmol) in toluene (8 mL) and the reaction mixture was maintained until the contents completely dissolved. The resultant yellow solution was transferred to a mixture of N-[(3S)-1-azabicyclo[2.2.2]oct-3-yl]-6-bromo-1,2-benzisothiazole-3-carboxamide (0.33 mmol), cesium carbonate (0.39 mmol) and 1-methyl-2-imidazolidinone 2-pyrrolidinone (0.500 mmol) under an atmosphere of nitrogen gas and the reaction mixture was heated at 100° C. for 16 h. The reaction mixture was filtered through Celite and concentrated. The residue was purified by HPLC, thus providing the product in 70% yield.

reactant | (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.14 mmol | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | N-[(3S)-1-azabicyclo[2.2.2]oct-3-yl]-6-bromo-1,2-benzisothiazole-3-carboxamide | 0.33 mmol | N12C[C@H](C(CC1)CC2)NC(=O)C2=NSC1=C2C=CC(=C1)Br | C15H16BrN3OS
reactant | cesium carbonate | 0.39 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-methyl-2-imidazolidinone 2-pyrrolidinone | 0.500 mmol | N1C(CCC1)=O.CN1C(NCC1)=O
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium (II) acetate | 0.09 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-[(3S)-1-Azabicyclo[2.2.2]oct-3-yl]-6-{[2-(propylamino)ethyl]amino}-1,2-benzisothiazole-3-carboxamide | 70% yield | N12C[C@H](C(CC1)CC2)NC(=O)C2=NSC1=C2C=CC(=C1)NCCNCCC | C20H29N5OS
